US07119088B2
3,4,5,6-Tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid ethyl ester
Potassium carbonate (52.5 g, 0.379 mol) was charged to a stirred solution of 2-Bromopyridine (60 g, 0.379 mol) and Ethylisonipecotate (59.7 g, 0.379 mol), at an ambient temperature before heating to 120° C. for 24 hours. The mixture was cooled to room temperature and propan-2-ol charged to the solution. The reaction mixture was then filtered and telescoped into preparation 1c.

reactant | Potassium carbonate | 0.379 mol, 52.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Bromopyridine | 0.379 mol, 60 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | Ethylisonipecotate | 0.379 mol, 59.7 g | C(C)OC(C1CCNCC1)=O | C8H15NO2
solvent | propan-2-ol | CC(C)O | C3H8O
product | 3,4,5,6-Tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)C1=NC=CC=C1 | C13H18N2O2
